US08071592B2
1-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-8-ethyl-7-fluoro-1,5-naphthyridin-2(1H)-one Dihydrochloride
1-[2-(4-amino-1-piperidinyl)ethyl]-8-ethyl-7-fluoro-1,5-naphthyridin-2(1H)-one (0.056 g, 0.184 mmol) and 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde (for a synthesis see WO2004058144, Example 2(c) or WO03/087098, Example 19(d)) (0.030 g, 0.184 mmol) was dissolved in CHCl3 (1 ml) and MeOH (0.1 ml) at rt under argon. NaBH(OAc)3 (0.117 g, 0.552 mmol) was then added and the reaction was allowed to stir at rt for 16 h. After which it was purified by chromatography on silica gel (10 g) using a 0-30% MeOH in DCM gradient to give the free base of the title compound as a yellow oil (0.041 g, 48%).

reactant | 1-[2-(4-amino-1-piperidinyl)ethyl]-8-ethyl-7-fluoro-1,5-naphthyridin-2(1H)-one | 0.184 mmol, 0.056 g | NC1CCN(CC1)CCN1C(C=CC2=NC=C(C(=C12)CC)F)=O | C17H23FN4O
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | MeOH | 0.1 ml | CO | CH4O
reactant | NaBH(OAc)3 | 0.552 mmol, 0.117 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | CHCl3 | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-8-ethyl-7-fluoro-1,5-naphthyridin-2(1H)-one Dihydrochloride | 0.041 g, 48% | Cl.Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C(=C21)CC)F)=O | InChI=1S/C25H30FN5O3.2ClH/c1-2-19-20(26)15-29-21-3-4-24(32)31(25(19)21)10-9-30-7-5-17(6-8-30)27-14-18-13-22-23(16-28-18)34-12-11-33-22;;/h3-4,13,15-17,27H,2,5-12,14H2,1H3;2*1H
